US07884210B2
In a nitrogen atmosphere 5-thiocyanato-thiazol-2-ylamine (10 g, 64 mmol) dissolved in MeOH (300 mL) was added 2,3-dihydroxy-1,4-dithiolbutane (DTT, 9.8 g, 64 mmol) and stirred at room temperature for 1½ h. Then 2-bromo-2-methyl-propionic acid ethyl ester (13.6 g, 70 mmol) and K2CO3 (10.5 g, 76 mmol) was added and the reaction mixture was stirred for further 16 h. Addition of water (500 mL) and EtOAc (500 mL). Separation of the organic phase followed by extraction of the aqueous phase with EtOAc (2×300 mL). The combined organic phases were washed with water (500 mL) and brine (2×400 mL) and dried (MgSO4), filtered and evaporated.1 The crude product was dissolved in a small amount of DCM and purified by flash chromatography (heptane/EtOAc 2:1->1:2). Fractions containing the product were pooled and evaporated to a product (ca 14 g) containing impurities of DDT. The crude product was dissolved in diethyl ether (100 mL) and washed with water eight times. The ether phase was dried (MgSO4), filtered and evaporated to give 8.45 g (54%) of 95% pure 2-(2-amino-thiazol-5-ylsulfanyl)-2-methyl-propionic acid ethyl ester as light brown crystals. 1As the DTT impurities is not easily removed by flash chromatography it's recommended that the crude product is dissolved in Et2O and subsequently washed with water several times at then purified by flash chromatography.

reactant | 5-thiocyanato-thiazol-2-ylamine | 64 mmol, 10 g | S(C#N)C1=CN=C(S1)N | C4H3N3S2
reactant | 2,3-dihydroxy-1,4-dithiolbutane | 64 mmol, 9.8 g | C([C@H]([C@H](CS)O)O)S | C4H10O2S2
reactant | 2-bromo-2-methyl-propionic acid ethyl ester | 70 mmol, 13.6 g | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
reactant | K2CO3 | 76 mmol, 10.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 300 mL | CO | CH4O
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
solvent | water | 500 mL | O | H2O
product | 2-(2-amino-thiazol-5-ylsulfanyl)-2-methyl-propionic acid ethyl ester | 8.45 g | C(C)OC(C(C)(C)SC1=CN=C(S1)N)=O | C9H14N2O2S2
